US07718693B2
2-Chloro-4-fluoro-3-(trifluoromethyl)benzamide (0.490 g, 2.03 mmol) was treated with 1M borane in tetrahydrofuran (20.33 ml, 20.33 mmol) and stirred at 60° C. overnight. The mixture was then treated with 2N aqueous hydrogen chloride until gas evolution ceased and then stirred at 100° C. for 2 hrs. The mixture was reduced in vacuo and the residue was taken up in a minimum of water and washed with dichloromethane (30 ml). The pH of the aqueous layer was adjusted to pH11 by the addition of 2N aqueous sodium hydroxide solution and then extracted with dichloromethane (2×25 ml). The dichloromethane layers were separated using a hydrophobic frit, combined and evaporated in vacuo to leave a pale yellow oil. A 1M solution of hydrogen chloride in diethyl ether (3 ml, 3 mmol) was added and the resulting white solid was filtered off to give pure {[2-Chloro-4-fluoro-3-(trifluoromethyl)phenyl]methyl}amine hydrochloride (0.210 g) which was used without further purification.

reactant | 2-Chloro-4-fluoro-3-(trifluoromethyl)benzamide | 2.03 mmol, 0.490 g | ClC1=C(C(=O)N)C=CC(=C1C(F)(F)F)F | C8H4ClF4NO
reactant | borane | 1M | B | BH3
reactant | tetrahydrofuran | 20.33 mmol, 20.33 ml | O1CCCC1 | C4H8O
reactant | hydrogen chloride | 2N | Cl | ClH
reactant | diethyl ether | 3 mmol, 3 ml | C(C)OCC | C4H10O
solvent | water | O | H2O
product | {[2-Chloro-4-fluoro-3-(trifluoromethyl)phenyl]methyl}amine hydrochloride | 0.210 g | Cl.ClC1=C(C=CC(=C1C(F)(F)F)F)CN | InChI=1S/C8H6ClF4N.ClH/c9-7-4(3-14)1-2-5(10)6(7)8(11,12)13;/h1-2H,3,14H2;1H
